US04657898
3-Bromopyruvic acid (170 g) is suspended in cold sulfuric acid (0.85 L) and maintained at 0° C. while benzene (0.255 L) is added over 1.5 hours. The temperature is allowed to warm to 35°-36° C. and then kept at 25° C. for three hours. Pouring over crushed ice (4 L) followed by trituration in cold water and recrystallization from 95% ethanol affords 76 g of 3-bromo-2,2-diphenylpropionic acid (mp 201°-202° C.). This acid (75 g) is suspended in benzene and thionyl chloride (55 ml) is added. After refluxing, the mixture is filtered, and the filtrate affords 40 g of the acid chloride (mp 98°14 100° C.). The acid chloride is added portionwise to aqueous ammonium hydroxide with stirring and left overnight, with filtration yielding 3-bromo-2,2-diphenylpropionamide. The amide (10 g) is added portionwise with stirring to a solution of sodium (1.5 g) in absolute ethanol (0.2 L), and the resulting solution is heated for one hour on a steam bath. Dilution with water affords a solid (mp >310° C.), 2,2-diphenyl azetidin-2-one. The azetidinone (2 g) is heated at reflux in methanol saturated with HCl (50 ml) affording the title compound after crystallization from methanol/ether (mp 207°-208° C.).

reactant | 3-Bromopyruvic acid | 170 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | benzene | 0.255 L | C1=CC=CC=C1 | C6H6
solvent | sulfuric acid | 0.85 L | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-bromo-2,2-diphenylpropionic acid | 76 g | BrCC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13BrO2
